US04268511
Preparation of p-methoxy-3-benzoylamino(1H,3H)quinazoline-2,4-dione (cyclization with phosgene)
28.5 g N-(2-amino-benzoyl)-N'-p-methoxy-benzoylhydrazine are dissolved in 800 cc 2N hydrochloric acid. A phosgene stream is passed through the solution, for a period of time of 1 hour. After purging the apparatus, the reaction product is suction filtered and washed with water. It is purified by recrystallization from isopropanol. M.P.=289° C.

reactant | N-(2-amino-benzoyl)-N'-p-methoxy-benzoylhydrazine | 28.5 g | NC1=C(C(=O)NNC(C2=CC=C(C=C2)OC)=O)C=CC=C1 | C15H15N3O3
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | hydrochloric acid | 2N, 800 cc | Cl | ClH
product | p-methoxy-3-benzoylamino(1H,3H)quinazoline-2,4-dione | COC1=CC=C(C(=O)NN2C(NC3=CC=CC=C3C2=O)=O)C=C1 | C16H13N3O4
